US07893223B2
4-Methoxy-β-nitrostyrene
p-Methoxybenzaldehyde (11.19 g, 82.2 mmol) and nitromethane (5.0 g, 82.2 mmol) were dissolved in methanol (20 mL) in a two-necked flask equipped with a thermometer and a pressure-equalizing dropping funnel. NaOH (4.27 g, 0.107 mol) in ice/water (10 mL) was added dropwise to the solution keeping the temperature below 15° C. A fine slurry formed during addition and additional methanol was added to allow efficient stirring. After the addition the reaction mixture was diluted with ice/water and the resulting clear solution was added dropwise to a solution of HCl/H2O (40 mL/60 mL); a yellow precipitate formed during the addition. The precipitate was filtered on a buchner funnel and crystallized from methanol obtaining 4-methoxy-β-nitrostirene (10.66 g, 72%). Yellow needles. M.p. 57-58° C. ESI-MS: 180 (MH+); (Calc. for C9H9NO3: 179 u.m.a.).

reactant | p-Methoxybenzaldehyde | 82.2 mmol, 11.19 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | nitromethane | 82.2 mmol, 5.0 g | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 0.107 mol, 4.27 g | [OH-].[Na+]
reactant | HCl H2O | 40 mL | Cl.O
solvent | methanol | 20 mL | CO | CH4O
product | 4-Methoxy-β-nitrostyrene | COC1=CC=C(C=C[N+](=O)[O-])C=C1 | C9H9NO3
